US06949579B2
(2E) N-(5-methyl-1H-indazol-3-yl)-2-butenamide
0.33 cm3 of crotonyl chloride is added to 560 mg of 5-methyl-1H-indazole-3-amine, prepared as described in patent EP 909 720, in 30 cm3 of pyridine. The medium is allowed to return to about 19° C. over 12 hours. The reaction medium is evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 25 cm3 of tetrahydrofuran, 25 cm3 of ethyl acetate and 25 cm3 of distilled water. The organic phase is washed with 2×25 cm3 of distilled water. The resulting solution is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (50/50 by volume) and collecting 20 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 50 mg of N-(5-methyl-1H-indazol-3-yl)-2-butenamide (E form) are obtained in the form of a white solid melting at about 218° C.

reactant | crotonyl chloride | 0.33 cm3 | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 5-methyl-1H-indazole-3-amine | 560 mg | CC=1C=C2C(=NNC2=CC1)N | C8H9N3
solvent | pyridine | 30 cm3 | N1=CC=CC=C1 | C5H5N
product | N-(5-methyl-1H-indazol-3-yl)-2-butenamide | CC=1C=C2C(=NNC2=CC1)NC(C=CC)=O | C12H13N3O
